US09034880B2
2-(8-chloro-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)acetic acid (0.2 g, 0.719 mmol) in 10 mL of DCM was taken, EDCI.HCl (137 mg, 0.719 mmol) was added and stirred for 10 min at RT. N-Boc piperazine (133 mg, 0.719 mmol) was added to the reaction mixture and stirred for 24 h at RT. Reaction was monitored by TLC & LCMS. After completion of the reaction, reaction mixture was concentrated and purified by column chromatography (neutral alumina; 2% Methanol-DCM) then purified by reverse phase chromatography to afford 90 mg of tert-butyl 4-(2-(8-chloro-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)acetyl)piperazine-1-carboxylate.

reactant | 2-(8-chloro-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)acetic acid | 0.719 mmol, 0.2 g | ClC1=CC=2C3=C(N(C2C=C1)CC(=O)O)CCN(C3)C | C14H15ClN2O2
reactant | EDCI.HCl | 0.719 mmol, 137 mg | CCN=C=NCCCN(C)C.Cl
reactant | N-Boc piperazine | 0.719 mmol, 133 mg | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 4-(2-(8-chloro-2-methyl-3,4-dihydro-1H-pyrido[4,3-b]indol-5(2H)-yl)acetyl)piperazine-1-carboxylate | 90 mg | ClC1=CC=2C3=C(N(C2C=C1)CC(=O)N1CCN(CC1)C(=O)OC(C)(C)C)CCN(C3)C | C23H31ClN4O3
